US05001135
(i) 4-[(Methylsulphonyl)methyl]benzeneamine
A solution of 1-[(methylsulphonyl)methyl]-4-nitrobenzene (4 g) in ethyl acetate (300 ml) containing a catalytic amount of palladium on carbon (10%, prehydrogenated, 0.5 g) was hydrogenated at room temperature and pressure until hydrogen uptake ceased (1400 ml, 1 h). The catalyst was filtered off and the filter cake washed with warm ethanol (2×80 ml). The filtrates were combined and concentrated under vacuum to afford the title compound (1.9 g) as a pale yellow crystalline solid, m.p. 167°-168° C.

reactant | 1-[(methylsulphonyl)methyl]-4-nitrobenzene | 4 g | CS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-[(Methylsulphonyl)methyl]benzeneamine | 1.9 g | CS(=O)(=O)CC1=CC=C(C=C1)N | C8H11NO2S
